US05151432
EXAMPLE 1: (3S)-2-{(S)-2-[(S)-1-(ETHOXYCARBONYL)-BUTYLAMINO]PROPIONYL}-3-CARBAMOYL-2-AZABICYCLO[2.2.2]OCTANE
Using the (DCC/HOBT) peptide coupling method described by W. KONIG and R. GEIGER (Ber, 103, 788, 1970) the expected product is prepared from 0.02 mol of (3S)-3-carbamoyl-2-azabicyclo[2.2.2]octane, described in Patent FR 2,585,709, and 0.02 mol of (S)-N-[(S)-1-(ethoxycarbonyl)butyl]alanine, described by VINCENT et al (Tetrahedron Letters 23, (1982), 1677-1680), the product being purified by chromatography on silica gel (elution solvent: dichloromethane/ethanol, 90:10) and then lyophilized.

reactant | (3S)-3-carbamoyl-2-azabicyclo[2.2.2]octane | 0.02 mol | C(N)(=O)[C@H]1NC2CCC1CC2 | C8H14N2O
reactant | (S)-N-[(S)-1-(ethoxycarbonyl)butyl]alanine | 0.02 mol | C(C)OC(=O)[C@H](CCC)N[C@@H](C)C(=O)O | C10H19NO4
product | (3S)-2-{(S)-2-[(S)-1-(ETHOXYCARBONYL)-BUTYLAMINO]PROPIONYL}-3-CARBAMOYL-2-AZABICYCLO[2.2.2]OCTANE | Yield: 58% | C(C)OC(=O)[C@H](CCC)N[C@H](C(=O)N1C2CCC([C@H]1C(N)=O)CC2)C | C18H31N3O4
